US20010007873A1
EXAMPLE 25 6-[2-CYCLOPENTYL4-(2-DIMETHYLAMINO-ETHOXY)-PHENYL]-PYRIDIN-2-YLAMINE
Prepared by an alkylation of 4-(6-amino-pyridin-2-yl)-3-cyclopentyl-phenol with 2-dimethylaminoethyl chloride in a presence of Cs2CO3 in a boiling acetone, as described in Example 14G, (67% yield).

reactant | 4-(6-amino-pyridin-2-yl)-3-cyclopentyl-phenol | NC1=CC=CC(=N1)C1=C(C=C(C=C1)O)C1CCCC1 | C16H18N2O
reactant | 2-dimethylaminoethyl chloride | CN(CCCl)C | C4H10ClN
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetone | CC(=O)C | C3H6O
product | 6-[2-CYCLOPENTYL4-(2-DIMETHYLAMINO-ETHOXY)-PHENYL]-PYRIDIN-2-YLAMINE | 67% yield | C1(CCCC1)C1=C(C=CC(=C1)OCCN(C)C)C1=CC=CC(=N1)N | C20H27N3O
